US06921759B2
Step 2: Preparation of 5-(3-hydroxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester
A mixture of 5-iodo-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester (2.00 g, 4.61 mmol), propargyl alcohol (0.563 mL, 9.67 mmol), dichlorobis(triphenylphosphine)palladium(II) (65 mg, 0.092 mmol), and copper iodide (4 mg, 0.023 mmol) were stirred in triethylamine (13 mL) and dry DMF (5 mL) at 30° C. overnight. The solvent was removed in vacuo and the residue was purified by flash chromatography (50-100% EtOAc/Hexane gradient elution switching to 5% MeOH/CH2Cl2) to provide the desired product was a light brown solid.

reactant | 5-iodo-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester | 4.61 mmol, 2.00 g | COC(=O)C1=NC(=C2C=CC=NC2=C1OC(=O)C1=CC=CC=C1)I | C17H11IN2O4
reactant | propargyl alcohol | 9.67 mmol, 0.563 mL | C(C#C)O | C3H4O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 13 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.092 mmol, 65 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.023 mmol, 4 mg | [Cu](I)I
product | 5-(3-hydroxy-prop-1-ynyl)-8-(1-phenyl-methanoyloxy)-[1,6]naphthyridine-7-carboxylic acid methyl ester | COC(=O)C1=NC(=C2C=CC=NC2=C1OC(=O)C1=CC=CC=C1)C#CCO | C20H14N2O5
